US09353107B2
Step-iii: N-(3-(3-(1-phenethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidin-4-amine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-((3-(3-(1-phenethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)amino)piperidine-1-carboxylate (80 mg, 0.142 mmol) was deprotected in HCl in methanol (5 ml). This afforded 18 mg (21.9% yield) of the titled compound. 1H NMR (CD3OD, 400 MHz): δ 8.55 (s, 1H), 8.435-8.431 (d, 1H), 7.91 (s, 1H), 7.81 (s, 1H), 7.71 (s, 1H), 7.39-7.32 (t, 1H), 7.29-7.20 (t, 2H), 7.16-7.13 (m, 2H), 7.04-7.03 (m, 2H), 6.85-6.80 (d, 1H), 4.49-4.46 (t, 2H), 3.85-3.75 (m, 1H), 3.52-3.49 (m, 2H), 3.22-3.19 (m, 4H), 2.35-2.25 (dd, 2H), 1.80-1.65 (m, 2H). MS: m/z=463.3 (M+1), HPLC: 90.63% in method A.

reactant | tert-butyl 4-((3-(3-(1-phenethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)amino)piperidine-1-carboxylate | 0.142 mmol, 80 mg | C(CC1=CC=CC=C1)N1N=CC(=C1)C1=CNC2=NC=C(C=C21)C=2C=C(C=CC2)NC2CCN(CC2)C(=O)OC(C)(C)C | C34H38N6O2
solvent | HCl | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | N-(3-(3-(1-phenethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidin-4-amine | 18 mg, 21.9% yield | C(CC1=CC=CC=C1)N1N=CC(=C1)C1=CNC2=NC=C(C=C21)C=2C=C(C=CC2)NC2CCNCC2 | C29H30N6
